US06403610B1
0.15 g of sodium borohydride was added in one portion, at a temperature in the region of 20° C. and under an inert atmosphere, to a stirred solution of 1.6 g of methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(thien-2-yl)prop-2-ynyl]-piperidine-3-carboxylate in 15 cm3 of methanol. The mixture was subsequently stirred for 2.5 hours at a temperature in the region of 25° C. 15 cm3 of distilled water were then added dropwise over approximately 10 minutes while maintaining at a temperature in the region of 15° C. The mixture was concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was taken up in 20 cm3 of distilled water. The mixture was extracted with a total of 100 cm3 of dichloromethane. The organic phases were combined, dried over sodium sulfate, and then evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The solid obtained was purified by chromatography under argon pressure (50 kPa) on a column of silica gel (particle size 20-45 μm; diameter 3 cm; height 35 cm), elution was carried out with a mixture of ethyl acetate and cyclohexane (8/2 by volume), and 15-cm3 fractions were collected. Fractions 38 to 59 were combined and then evaporated under reduced pressure (2 kPa) at a temperature in the region of 40° C. 1.3 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin4-yl)propyl]-1-[3-(thien-2-yl)prop-2-ynyl]piperidine-3-carboxylate were thus obtained in the form of a foam.

reactant | sodium borohydride | 0.15 g | [BH4-].[Na+]
reactant | methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(thien-2-yl)prop-2-ynyl]-piperidine-3-carboxylate | 1.6 g | O=C(CC[C@H]1[C@H](CN(CC1)CC#CC=1SC=CC1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C27H28N2O4S
solvent | methanol | 15 cm3 | CO | CH4O
solvent | water | 20 cm3 | O | H2O
solvent | water | 15 cm3 | O | H2O
product | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin4-yl)propyl]-1-[3-(thien-2-yl)prop-2-ynyl]piperidine-3-carboxylate | 1.3 g | OC(CC[C@H]1[C@H](CN(CC1)CC#CC=1SC=CC1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C27H30N2O4S
